US06900215B2
3-Bromo-7-(3-methyl-[1,2,4]oxadiazol-5-yl)imidazo[1,2-α]pyrimidine was coupled with 2′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile as described in Example 2 to give 2′-fluoro-5′-[7-(3-methyl-[1,2,4]oxadiazol-5-yl)imidazo[1,2-α]pyrimidin-3-yl]biphenyl-2-carbonitrile as a yellow solid: δH (400 MHz, CDCl3) 2.55 (3H, s), 7.46 (1H, t, J 9), 7.56-7.59 (1H, m), 7.64 (2H, dd, J 7 and 2), 7.69-7.73 (2H, m), 7.81-7.87 (2H, m), 8.16 (1H, s), 9.05 (1H, s); m/z (ES+) 397 (M++H).

reactant | 3-Bromo-7-(3-methyl-[1,2,4]oxadiazol-5-yl)imidazo[1,2-α]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C2=NC(=NO2)C | C9H6BrN5O
reactant | 2′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=1C(=CC=CC1)C#N | C19H19BFNO2
product | 2′-fluoro-5′-[7-(3-methyl-[1,2,4]oxadiazol-5-yl)imidazo[1,2-α]pyrimidin-3-yl]biphenyl-2-carbonitrile | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C2=NC(=NO2)C)C=2C(=CC=CC2)C#N | C22H13FN6O
